US06593330B2
2-[(3-Dimethylaminobenzyl)oxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[(3-dimethylaminobenzyl)oxy]pyrazine (3.04 g, 11.5 mmol; obtained according to the procedure of example 50, step 1, starting from 3-dimethylaminobenzyl alcohol), piperazine (3.08 g, 35.7 mmol) and K2CO3 (1.59 g, 11.5 mmol) with the exception that the final filtration through alumina was omitted. The yield of the of the title compound was 2.06 g (57%) which was obtained as a beige colored oil that solidified when refrigerated. Purity 98% (HPLC). MS m/z 313 (M)+. HRMS m/z calcd for C17H23N5O (M)+ 313.1903, found 313.1910.

reactant | 2-chloro-6-[(3-dimethylaminobenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=CC(=CC=C1)N(C)C | C13H14ClN3O
reactant | 3-dimethylaminobenzyl alcohol | CN(C=1C=C(CO)C=CC1)C | C9H13NO
reactant | piperazine | 35.7 mmol, 3.08 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 11.5 mmol, 1.59 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[(3-Dimethylaminobenzyl)oxy]-6-(1-piperazinyl)pyrazine | CN(C=1C=C(COC2=NC(=CN=C2)N2CCNCC2)C=CC1)C | C17H23N5O
